US05723618
4-(2-Chlorophenyl)-2-(2-hydroxyimino-ethoxymethyl)-1,4-dihydro-6-methyl-3,5-pyridinedicarboxylic acid 3-ethyl 5-methyl ester (IBa)
A mixture of 4-(2-chlorophenyl)-2-methyl-6-(2-oxo-ethoxymethyl)-1,4-dihydro-3,5-pyridinedicarboxylic acid 5-ethyl 3-methyl ester (ID, 6.2 g), hydroxylammonium hydrochloride (1.27 g) and triethylamine (1.85 g) in methanol (100 mL) was stirred at room temperature for 6 h. Methanol was removed under reduced pressure and the residue was dissolved in ethyl acetate (200 mL) and water (200 mL). With vigorous stirring, the pH of the mixture was adjusted to 10 with aqueous 1N sodium hydroxide solution. After stirring for a further 15 min, the organic layer was collected, dried (sodium sulfate), filtered and concentrated in vacuo. The residue was recristallized from ether and hexane to give the title compound IB (6.1 g). HRMS: calc. for C20 H23CIN2O6 422.1245 found 422.1248; m.p. 161.4°-162.2° C.; IR (KBr, cm-1): 3446, 3379, 1698, 1671, 1601.

reactant | 4-(2-chlorophenyl)-2-methyl-6-(2-oxo-ethoxymethyl)-1,4-dihydro-3,5-pyridinedicarboxylic acid 5-ethyl 3-methyl ester | 6.2 g | COC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)Cl)C(=O)OCC)COCC=O)C | C20H22ClNO6
reactant | hydroxylammonium hydrochloride | 1.27 g | Cl.O[NH3+]
reactant | triethylamine | 1.85 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 100 mL | CO | CH4O
product | 4-(2-Chlorophenyl)-2-(2-hydroxyimino-ethoxymethyl)-1,4-dihydro-6-methyl-3,5-pyridinedicarboxylic acid 3-ethyl 5-methyl ester | COC(=O)C=1C(C(=C(NC1C)COCC=NO)C(=O)OCC)C1=C(C=CC=C1)Cl | C20H23ClN2O6
